US05506358
To 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminobenzyl cyanide (E/Z=13/87)(2.94 g, 10 mmol) were added 96.7% potassium hydroxide (1.16 g, 20 mmol), butanol (20 ml) and water (2 ml). The mixture was stirred under reflux for 13 hours. After completion of the reaction, 1N aqueous hydrochloric acid solution (150 ml) was added. The mixture was extracted with toluene (150 ml), washed with water (100 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give crude 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyiminoacetic acid (2.99 g, Yield 95.5%, Z=at least 99%).

reactant | 2-(2,5-dimethylphenoxymethyl)-α-methoxyiminobenzyl cyanide | 10 mmol, 2.94 g | CC1=C(OCC2=C(C(=NOC)C#N)C=CC=C2)C=C(C=C1)C | C18H18N2O2
reactant | potassium hydroxide | 20 mmol, 1.16 g | [OH-].[K+]
reactant | butanol | 20 ml | C(CCC)O | C4H10O
reactant | hydrochloric acid | 1N, 150 ml | Cl | ClH
reactant | water | 2 ml | O | H2O
product | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-methoxyiminoacetic acid | 2.99 g, Yield 95.5% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)O)=NOC)C=C(C=C1)C | C18H19NO4
